US08383821B2
(R)-tert-Butyl 4-((1-(4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate.
(R)-tert-Butyl 4-((1-(3-bromo-5-(trifluoromethyl)phenyl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate (0.35 g, 0.65 mmol), 4-cyanophenylboronic acid (284 mg, 1.93 mmol), and tetrakis(triphenylphosphine) palladium(0) (75 mg, 0.07 mmol) were combined in dry tetrahydrofuran (5 mL) in a microwave tube and sealed. After flushing with nitrogen, 2.3 mL of a 1 N potassium hydroxide aqueous solution was introduced. The mixture was heated at 120° C. for 1 h via microwave. After cooling to room temperature, the reaction mixture was concentrated and purified by flash chromatography on silica gel (15% ethyl acetate/hexanes) to afford 300 mg (82%) as an oil. LC/MS: tR=3.51 min, 565.23 (MH)+. (Phenomenex C18 4.6×50 mm, 10% MeOH/90% H2O/0.1% TFA→90% MeOH/10% H2O/0.1% TFA, Gradient time=4 min., Flow rate=4 mL/min.).

reactant | (R)-tert-Butyl 4-((1-(3-bromo-5-(trifluoromethyl)phenyl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.65 mmol, 0.35 g | BrC=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C26H31BrF3NO3
reactant | 4-cyanophenylboronic acid | 1.93 mmol, 284 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | MeOH | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.07 mmol, 75 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (R)-tert-Butyl 4-((1-(4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate | C(#N)C1=CC=C(C=C1)C1=CC(=CC(=C1)C(F)(F)F)[C@@H](C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C33H35F3N2O3
